US05932732
Sodium hydroxide (13.6 g) is dissolved in water (300 ml), and therein is suspended (3R)-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid (30.0 g) and thereto is added tetrahydrofuran (120 ml). To the resulting solution is added 4-biphenylylsulfonyl chloride (42.9 g), and the mixture is stirred at room temperature for one hour. The reaction mixture is acidified with 10% hydrochloric acid under ice cooling, and is diluted with water, and then extracted twice with ethyl acetate. The extract is washed with water and an aqueous saturated saline solution, dried over sodium sulfate and then treated with active carbon. Undissolved materials are filtered off from the extract, and the solvent is distilled off under reduced pressure. The residue is recrystallized from ethyl acetate-hexane to give (3R)-N-(4-biphenylylsulfonyl)-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid (36.5 g) as colorless crystals.

reactant | Sodium hydroxide | 13.6 g | [OH-].[Na+]
reactant | (3R)-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid | 30.0 g | C1N[C@H](CC2=CC=CC=C12)C(=O)O | C10H11NO2
reactant | 4-biphenylylsulfonyl chloride | 42.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 300 ml | O | H2O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | (3R)-N-(4-biphenylylsulfonyl)-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid | 36.5 g, Yield: 55% | C1(=CC=C(C=C1)S(=O)(=O)N1CC2=CC=CC=C2C[C@@H]1C(=O)O)C1=CC=CC=C1 | C22H19NO4S
